US04876284
Example E4. cis-1-ethyl-5-hydroxy-2-(di-n-propylamino) tetralin hydrobromide
cis-1-Ethyl-5-methoxy-2-(di-n-propylamino) tetralin hydrochloride (150 mg, 0.46 mmol) was heated in 48% aqueous HBr for 2 h at 120° C. under N2. The volatiles were evaporated in vacuo and the residue was crystallized from MeOH-ethyl ether. Two recrystallizations from MeOH-ethyl ether gave the desired product as HBr-salt (68 mg, 42%). Isomeric purity >95% (6C, 250° C.).

reactant | cis-1-Ethyl-5-methoxy-2-(di-n-propylamino) tetralin hydrochloride | 0.46 mmol, 150 mg | Cl.C(C)[C@H]1[C@H](CCC2=C(C=CC=C12)OC)N(CCC)CCC
reactant | HBr | Br | BrH
product | cis-1-ethyl-5-hydroxy-2-(di-n-propylamino) tetralin hydrobromide | Br.C(C)[C@H]1[C@H](CCC2=C(C=CC=C12)O)N(CCC)CCC | InChI=1S/C18H29NO.BrH/c1-4-12-19(13-5-2)17-11-10-16-15(14(17)6-3)8-7-9-18(16)20;/h7-9,14,17,20H,4-6,10-13H2,1-3H3;1H/t14-,17+;/m1./s1
